US05939521
Synthesis of 4,4'-Bis(4-aminophenoxy)-2,2'-dimethylbiphenyl (4)
4,4'-Bis(4-nitrophenoxy)-2,2'-dimethylbiphenyl (80 g) was dissolved in 350 ml of DMF and added carefully to a hydrogenation bottle containing 8 gm of 5% Pt/C. The solution was subjected to hydrogenation at 100° C. for 3 hours. Then 100 ml of water and 3 g of decolorizing charcoal were added and heated for 5 min. The solution was then filtered through a Celite pad and 1000 ml of water was added. The reaction mixture became a mixture of fluffy solid and a sticky resin and was stirred for 1 hour to give a tan colored solid. The solid was removed by filtration, crushed with a mortar and pestel and then stirred with 1000 ml of water for 1 hour. The solid was collected by filtration and dried to afford 59.2 g (85%) of the product mp=140° C.

reactant | 4,4'-Bis(4-nitrophenoxy)-2,2'-dimethylbiphenyl | 80 g | [N+](=O)([O-])C1=CC=C(OC2=CC(=C(C=C2)C2=C(C=C(C=C2)OC2=CC=C(C=C2)[N+](=O)[O-])C)C)C=C1 | C26H20N2O6
reactant | water | 100 ml | O | H2O
reactant | charcoal | 3 g | C | CH4
solvent | DMF | 350 ml | CN(C)C=O | C3H7NO
catalyst | Pt/C | 8 gm | [Pt] | Pt
product | 4,4'-Bis(4-aminophenoxy)-2,2'-dimethylbiphenyl | 59.2 g, 85% | NC1=CC=C(OC2=CC(=C(C=C2)C2=C(C=C(C=C2)OC2=CC=C(C=C2)N)C)C)C=C1 | C26H24N2O2
